US08426420B2
i) piperazine-1,4-dicarboxylic acid butyl ester tert-butyl ester
To a solution of 10.9 g tert-butyl 1-piperazinecarboxylate in 145 ml dichloromethane were added 17.8 ml triethylamine. The solution was cooled to 0° C. and 8.3 ml butylchloro-formate added dropwise at this temperature. After stirring for 1 h the reaction mixture was diluted with dichloromethane and washed with 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was directly used in the next reaction step. Yield: 18.0 g.

reactant | tert-butyl 1-piperazinecarboxylate | 10.9 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 17.8 ml | C(C)N(CC)CC | C6H15N
reactant | butylchloro-formate | 8.3 ml | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 145 ml | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid butyl ester tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OCCCC | C14H26N2O4
